US05175166
5-Acetoxy-2-trifluoromethyl-1,4,5,6-tetrahydropyrimidine HCl
2-Trifluoromethyl-5-hydroxy-1,4,5,6-tetrahydropyrimidine (lllmmol) was dissolved in glacial acetic acid (100 ml) with stirring, and thionyl chloride (8.1 ml, 111 mmol) was added dropwise. The resulting solution was refluxed 19 hours, then evaporated to dryness in vacuo. The residue was taken up in water (50 ml), the pH adjusted to 9 (sat. Na2CO3), and extracted with chloroform. The chloroform was dried (MgSO4) and evaporated in vacuo to 2 g (90%) crude product as a clear red oil identified by 400 MHz nmr. The oil was converted to its HCl salt in anhydrous ethanol with addition of 1M HCl in ether. Unreacted starting material, as the hydrochloride, was collected and the mother liquor evaporated, treated with aqueous base and extracted with chloroform again. Chromatography (silica 60, chloroform/methanol) gave 440 mg crude product as an oil that was again converted to its hydrochloride salt in ethanol. After evaporation of solvents the crude HCl salt was recrystallized from ethanol/ether to yield 242 mg (0.8%) tan crystals, mp 197°-199° C. 400 MHz nmr confirmed the product calculated: C 34.09, H 4.09, N 11.36; found: C 34.13, H 4.14, N 11.50.

reactant | 2-Trifluoromethyl-5-hydroxy-1,4,5,6-tetrahydropyrimidine | FC(C=1NCC(CN1)O)(F)F | C5H7F3N2O
reactant | thionyl chloride | 111 mmol, 8.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 5-Acetoxy-2-trifluoromethyl-1,4,5,6-tetrahydropyrimidine HCl | 242 mg, 0.8% | Cl.C(C)(=O)OC1CN=C(NC1)C(F)(F)F | InChI=1S/C7H9F3N2O2.ClH/c1-4(13)14-5-2-11-6(12-3-5)7(8,9)10;/h5H,2-3H2,1H3,(H,11,12);1H
